US06753322B2
2-[2-(4-Isopropyl-1-piperidinyl)ethyl]-1H-isoindole-1,3(2H)-dione
A solution of 4-isopropylpiperidine (3.3 g, 20.2 mmol), N-(2-bromoethyl)phthalimide (5.4 g, 21.3 mmol), potassium carbonate (5.9 g, 45.4 mmol) and acetonitrile (100 ml) and was heated under reflux for 2.5 hours then stirred at room temperature overnight. The solvent was removed under reduced pressure and the residue partitioned between ethyl acetate (100 ml) and water (100 ml). The organic layer was separated and the aqueous layer extracted with further ethyl acetate (100 ml). The combined organic extracts were dried (Na2SO4) and the solvent removed by evaporation under reduced pressure. The resulting oil was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane changing to dichloromethane diethyl:ether (50:50, by volume) changing to diethyl ether to afford the title compound (3.3 g).

reactant | 4-isopropylpiperidine | 20.2 mmol, 3.3 g | C(C)(C)C1CCNCC1 | C8H17N
reactant | N-(2-bromoethyl)phthalimide | 21.3 mmol, 5.4 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | potassium carbonate | 45.4 mmol, 5.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-[2-(4-Isopropyl-1-piperidinyl)ethyl]-1H-isoindole-1,3(2H)-dione | 3.3 g | C(C)(C)C1CCN(CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C18H24N2O2
